US07531532B2
2-{[4-(Dimethylaminomethyl)piperidin-1-yl]carbonylamino}-4-(4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridine
After adding a solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.2 M, 3.0 ml) to a solution of 4-(4-aminophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine (79 mg) and (+)-10-camphorsulfonic acid (49.7 mg) in ethanol (3.0 ml) at room temperature, the mixture was stirred overnight. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine in that order and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:heptane=4:1) to provide the title compound (36.5 mg, 30%) as white powder.

reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
reactant | 4-(4-aminophenoxy)-2-{[4-(dimethylaminomethyl)piperidin-1-yl]carbonylamino}pyridine | 79 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN(C)C)C=C1 | C20H27N5O2
reactant | (+)-10-camphorsulfonic acid | 49.7 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 0.2 M, 3.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 2-{[4-(Dimethylaminomethyl)piperidin-1-yl]carbonylamino}-4-(4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridine | 36.5 mg, 30% | CN(C)CC1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C29H33FN6O3S
